US07691882B2
6-Methyl-5-trimethylsilanylethynyl-pyridin-2-ylamine
To a mixture of 6-amino-3-bromo-2-methylpyridine (200 mg, 1.0 mmol), trimethylsilylacetylene (0.22 mL, 1.6 mmol), copper (I) iodide (9.9 mg, 0.052 mmol), and 1,4-dioxane (1.5 mL) was added bis(triphenylphosphine)palladium (II) chloride (73 mg, 0.10 mmol), which was stirred under nitrogen atmosphere for 3 hours and 30 minutes at 100° C. The reaction mixture was allowed to room temperature, water was added to the reaction mixture at the same temperature, ethyl acetate was added, and the mixture was filtered through a Celite pad. The organic layer of the filtrate was separated and washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure, and the residue thus obtained was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (140 mg, 57%, purity: 86%).

reactant | 6-amino-3-bromo-2-methylpyridine | 1.0 mmol, 200 mg | NC1=CC=C(C(=N1)C)Br | C6H7BrN2
reactant | trimethylsilylacetylene | 1.6 mmol, 0.22 mL | C[Si](C)(C)C#C | C5H10Si
reactant | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
reactant | water | O | H2O
catalyst | copper (I) iodide | 0.052 mmol, 9.9 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.10 mmol, 73 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Methyl-5-trimethylsilanylethynyl-pyridin-2-ylamine | 140 mg, 57% | CC1=C(C=CC(=N1)N)C#C[Si](C)(C)C | C11H16N2Si
